US08211908B2
In a solution of 134 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one in 1 mL of methanol and 5 mL of ethyl acetate, 2 mL of 4 mol/L hydrogen chloride/ethyl acetate was added, and the mixture was stirred at room temperature. The solid was filtered off to obtain 159 mg of 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride as a light yellow solid.

reactant | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one | 134 mg | O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | C24H29N5O4
reactant | hydrogen chloride ethyl acetate | 4 mol/L, 2 mL | Cl.C(C)(=O)OCC
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-(4-((2,3-dihydro(1,4)dioxino(2,3-b)pyridin-7-yl)methylamino)piperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 159 mg | Cl.O1CCOC2=NC=C(C=C21)CNC2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O | InChI=1S/C24H29N5O4.ClH/c1-31-19-13-21-20(26-16-19)2-3-23(30)29(21)9-8-28-6-4-18(5-7-28)25-14-17-12-22-24(27-15-17)33-11-10-32-22;/h2-3,12-13,15-16,18,25H,4-11,14H2,1H3;1H
